US07538231B2
tert-butyl 4-(1-benzofuran-2-yl)-3-ethyl-5-formyl-1H-pyrrole-2-carboxylate
Tert-butyl 3-ethyl-5-formyl-4-iodo-1H-pyrrole-2-carboxylate was obtained following the procedures described in Example 1. To a mixture of tert-butyl 3-ethyl-5-formyl-4-iodo-1H-pyrrole-2-carboxylate (0.0597 g, 0.172 mmol), K3PO4 (0.180 g, 0.85 mmol), Pd(PPh3)4(0.0120 g, 0.010 mmol), and 1-benzofuran-2-ylboronic acid (0.0330 g, 0.21 mmol) under N2 was added dimethoxyethane (2.5 mL). The reaction was heated to 85° C. and refluxed for 5 h. After cooling to ambient temperature, the reaction was filtrated through a pad of silica gel and concentration. The resultant residue was purified by normal phase chromatography (5-15% ethyl acetate/hexanes). Proton NMR for the product was consistent with the title compound as a 2:1 mixture of atropdiastereomers. 1H NMR (500 MHz, CDCl3) δ 10.17 (s, 0.7 H); 9.59 (s, 0.3H); 7.64 (app. d, J=7.6 Hz, 1H); 7.52 (app. d, J=8.1 Hz, 1H); 7.34 (app. t, J=7.7 Hz, 1H); 7.28 (app. t, J=7.6 Hz, 1H), 6.92 (s, 0.7H); 6.80 (s, 0.3H); 3.00 (q, J=7.3 Hz, 1.4H); 2.79 (q, J=7.5 Hz, 0.6H); 1.62 (s, 6.3H); 1.59 (s, 2.7H); 1.28 (t, J=7.3 Hz, 2.1H); 1.23 (t, J=7.6 Hz, 0.9H). HRMS (ES) exact mass calculated for C20H21NNaO4 (M+Na+): 362.1362. Found 362.1362.

reactant | tert-butyl 3-ethyl-5-formyl-4-iodo-1H-pyrrole-2-carboxylate | 0.172 mmol, 0.0597 g | C(C)C1=C(NC(=C1I)C=O)C(=O)OC(C)(C)C | C12H16INO3
reactant | K3PO4 | 0.85 mmol, 0.180 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 1-benzofuran-2-ylboronic acid | 0.21 mmol, 0.0330 g | O1C(=CC2=C1C=CC=C2)B(O)O | C8H7BO3
catalyst | Pd(PPh3)4 | 0.010 mmol, 0.0120 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dimethoxyethane | 2.5 mL | C(OC)COC | C4H10O2
product | tert-butyl 4-(1-benzofuran-2-yl)-3-ethyl-5-formyl-1H-pyrrole-2-carboxylate | O1C(=CC2=C1C=CC=C2)C=2C(=C(NC2C=O)C(=O)OC(C)(C)C)CC | C20H21NO4
